US07253164B2
A mixture of hydroxy-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-2-yl)-acetic acid (0.13 mmol) and p-TSA (1 mg) in 1.5 mL of 2,2-dimethoxypropane is stirred at room temperature for 16 hours. Solvent is removed under vacuum and the residue is treated with a saturated aqueous solution of NaHCO3 (2 mL). The resulted mixture is extracted with EtOAc (3×5 mL). The organic layers are combined and concentrated to provide the crude 2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-yl)-4H-benzo[1,4]thiazin-3-one which was used directly for next step without further purification. Yield: 31%

reactant | hydroxy-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-2-yl)-acetic acid | 0.13 mmol | OC(C(=O)O)C1SC2=C(NC1=O)C=CC=C2 | C10H9NO4S
reactant | p-TSA | 1 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | 2,2-dimethoxypropane | 1.5 mL | COC(C)(C)OC | C5H12O2
product | 2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-yl)-4H-benzo[1,4]thiazin-3-one | Yield: 31% | CC1(OC(C(O1)C1SC2=C(NC1=O)C=CC=C2)=O)C | C13H13NO4S
